US05284852
6-Acetyl-2-butyl-4(1H)-quinazolinone
To a solution of 1.20 g of 2-butyl-6-ethynyl-4(1H)-quinazolinone in 90 ml of acetate acid is added 0.45 g of mercuric sulfate, 0.9 ml of water and 0.3 ml of sulfuric acid. The reaction mixture is heated at reflux for 5 hours, cooled to room temperature and quenched with 150 ml of water. The resulting mixture is concentrated in vacuo, diluted with 150 ml of water and extracted with 6:1 chloroform-methanol. The combined organics are dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash chromatography on silica gel, eluting with 1:1 ethyl acetate-hexanes to give 0.67 g of the desired product as a white solid. CI MASS SPEC 245(MH+).

reactant | 2-butyl-6-ethynyl-4(1H)-quinazolinone | 1.20 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C#C | C14H14N2O
reactant | water | 0.9 ml | O | H2O
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetate | 90 ml | C(C)(=O)[O-]
product | 6-Acetyl-2-butyl-4(1H)-quinazolinone | 0.67 g | C(C)(=O)C=1C=C2C(N=C(NC2=CC1)CCCC)=O | C14H16N2O2
